US05216172
To a solution of 1.48 g (3.32 mmol) of 1.4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-pyridine carboxylic acid-5-methylester in 42 ml of dry tetrahydrofuran (THF) was added with stirring 1.8 ml of 1N LiAlH4 /diethyl ether solution at room temperature (about 20°-30° C.). The mixture was stirred for 20 min. and was poured into ice-water. The mixture was filtered and extracted with CH2Cl2. This oil was purified by column chromatography (AcOEt:Hexane 1:1) to give 1.08 g (2.58 mmol) of 1,4-dihydro-4-(3,4-dimethoxyphenyl-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-hydroxymethylpyridine (78% yield: oil).

reactant | 1.4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-pyridine carboxylic acid-5-methylester | 3.32 mmol, 1.48 g | COC(=O)C=1C(C(=C(N(C1C)CCCC1=CC=CC=C1)C)C#N)C1=CC(=C(C=C1)OC)OC | C27H30N2O4
reactant | LiAlH4 diethyl ether | 1N, 1.8 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3].C(C)OCC
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
product | 3,4-dimethoxyphenyl-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-hydroxymethylpyridine | 78% yield | COC=1C=C(C=CC1OC)C1=C(C(N(C(=C1CO)C)CCCC1=CC=CC=C1)C)C#N | C26H30N2O3
